US04663343
trans-2-[(4-Chloro-1-naphthalenyl)oxy]-N-[2-(dimethylamino)cyclohexyl]-N-methylacetamide, hydrochloride
Starting with trans-2-dimethylamino-N-methylcyclohexanamine and [(4-chloro-1-naphthalenyl)oxy]acetic acid, the title compound, m.p. 135°-138° C., was prepared employing the method of Example 5.

reactant | trans-2-dimethylamino-N-methylcyclohexanamine | CN([C@H]1[C@@H](CCCC1)NC)C | C9H20N2
reactant | [(4-chloro-1-naphthalenyl)oxy]acetic acid | ClC1=CC=C(C2=CC=CC=C12)OCC(=O)O | C12H9ClO3
product | trans-2-[(4-Chloro-1-naphthalenyl)oxy]-N-[2-(dimethylamino)cyclohexyl]-N-methylacetamide, hydrochloride | Cl.ClC1=CC=C(C2=CC=CC=C12)OCC(=O)N(C)[C@H]1[C@@H](CCCC1)N(C)C | InChI=1S/C21H27ClN2O2.ClH/c1-23(2)18-10-6-7-11-19(18)24(3)21(25)14-26-20-13-12-17(22)15-8-4-5-9-16(15)20;/h4-5,8-9,12-13,18-19H,6-7,10-11,14H2,1-3H3;1H/t18-,19-;/m1./s1
